US07635715B2
Step B: Preparation of N-((6-Chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alanine
To 1,1-dimethylethyl N-((6-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alaninate (320 mg, 812 μmol) was added TFA (2 mL) at ambient temperature. The mixture was stirred for 30 minutes and was then concentrated, precipitated with hexanes, filtered, washed, and dried in a vacuum oven to give the title compound (220 mg) as a white solid. MS (m/z)=338 (M+H)+. Calculated for C16H16ClNO5 337.07.

reactant | 1,1-dimethylethyl N-((6-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alaninate | 812 μmol, 320 mg | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)N[C@@H](C)C(=O)OC(C)(C)C)O | C20H24ClNO5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6-Chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)-L-alanine | 220 mg | ClC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)N[C@@H](C)C(=O)O)O | C16H16ClNO5
